US06372877B1
A 250-ml, round-bottom flask was purged with argon and filled with 15.8653 g (0.0494 mol) of 2,2-bis-(4-chloroformylphenyl)propane (6HDAC) and 100 mL of fluorobenzene. To this solution was added with stirring 18.5 grams of anhydrous aluminum chloride in small portions over a 5-minute period. A small amount of heat was given off as evidenced by a slight rise in the temperature of the solution. The yellow reaction mixture was heated to 50-60° C. for 1.5 hours. The reaction progress was monitored by observing the HCl gas adsorption in a water trap. The reaction mixture was allowed to cool and then poured slowly into 700 ml of stirred, ice-cold 1M HCl. The lower organic layer was collected and concentrated to a light-red solid under reduced pressure. The solid was digested in 100 mL of ethanol for 12 hours and the resulting white solid was collected by filtration. Recrystallization from isopropyl alcohol yielded 15.8 g(73%) of 2,2-Bis-[4-(4-fluorobenzoyl)phenyl]propane (6HBFP), m.p. 167-168° C.

reactant | 2,2-bis-(4-chloroformylphenyl)propane | 0.0494 mol, 15.8653 g | ClC(=O)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)C(=O)Cl | C17H14Cl2O2
reactant | aluminum chloride | 18.5 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | fluorobenzene | 100 mL | FC1=CC=CC=C1 | C6H5F
product | 2,2-Bis-[4-(4-fluorobenzoyl)phenyl]propane | 15.8 g, 73% | FC1=CC=C(C(=O)C2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)C(C2=CC=C(C=C2)F)=O)C=C1 | C29H22F2O2
